US07863302B2
2-(4-Hydroxy-2-methyl-phenyl)-benzo[b]thiophene-7-carboxylic acid methyl ester
The title compound (85 mg, 69%) is prepared essentially as described in the synthesis of 2-(4-Hydroxy-2-methyl-phenyl)-benzo[h]thiophene-5-carboxylic acid ethyl ester, utilizing 2-(4-Methoxy-2-methyl-phenyl)-benzo[b]thiophene-7-carboxylic acid methyl ester and methanol. ES/MS m/e 297 (M−1).

reactant | 2-(4-Methoxy-2-methyl-phenyl)-benzo[b]thiophene-7-carboxylic acid methyl ester | COC(=O)C1=CC=CC2=C1SC(=C2)C2=C(C=C(C=C2)OC)C | C18H16O3S
solvent | methanol | CO | CH4O
product | 2-(4-Hydroxy-2-methyl-phenyl)-benzo[b]thiophene-7-carboxylic acid methyl ester | 85 mg, 69% | COC(=O)C1=CC=CC2=C1SC(=C2)C2=C(C=C(C=C2)O)C | C17H14O3S
